US09278950B2
Step 2. Di-tert-butyl (4-{(3R,4S,5S)-3-[(tert-butoxycarbonyl)amino]-4-[(methoxycarbonyl)amino]-5-methylpiperidin-1-yl}pyridin-3-yl)imidodicarbonate
To a solution of di-tert-butyl (4-{(3R,4S,5S)-4-amino-3-[(tert-butoxycarbonyl)amino]-5-methylpiperidin-1-yl}pyridin-3-yl)imidodicarbonate (1.27 g, 2.43 mmol) in DCM (50.0 mL) at 0° C., DIPEA (983 mg, 7.60 mmol) was added followed by a solution of methyl chloroformate (244 mg, 2.59 mmol) in DCM (10 mL). The solution was stirred at 0° C. for 30 min., then at room temperature for additional 30 min., then the reaction was quenched with 1.0 M aq. Na2CO3 in water (75.0 mL, 75.0 mmol). The organic layer was separated, washed with brine, then dried over Na2SO4, filtered and concentrated to give the crude sub-title compound as a yellow foamy solid (1.545 g, 109%). The crude product was used directly in the next step without further purification. LCMS calc. for C28H46N5O8 (M+H)+: m/z=580.3. Found: 580.3.

reactant | di-tert-butyl (4-{(3R,4S,5S)-4-amino-3-[(tert-butoxycarbonyl)amino]-5-methylpiperidin-1-yl}pyridin-3-yl)imidodicarbonate | 2.43 mmol, 1.27 g | N[C@@H]1[C@@H](CN(C[C@@H]1C)C1=C(C=NC=C1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C26H43N5O6
reactant | DIPEA | 7.60 mmol, 983 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | methyl chloroformate | 2.59 mmol, 244 mg | ClC(=O)OC | C2H3ClO2
reactant | Na2CO3 | 1.0 M | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 75.0 mmol, 75.0 mL | O | H2O
solvent | DCM | 50.0 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | Di-tert-butyl (4-{(3R,4S,5S)-3-[(tert-butoxycarbonyl)amino]-4-[(methoxycarbonyl)amino]-5-methylpiperidin-1-yl}pyridin-3-yl)imidodicarbonate | 1.545 g, 109% | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H]([C@@H]1NC(=O)OC)C)C1=C(C=NC=C1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C28H45N5O8
